US08193227B2
5-fluoro-4-hydroxy-2-methylbenzenesulfonyl chloride
To a solution of chlorosulfonic acid (1.5 g, 13.3 mmol) dissolved in 10 mL of dichloromethane was added 2-fluoro-5-methylphenol (1.1 g, 8.86 mmol) dropwise. After 10 minutes, the reaction was quenched by adding to ice water. The reaction was extracted with dichloromethane, washed with brine, dried over MgSO4, filtered, and concentrated to give 150 mg (7.5%) of the title compound.

reactant | chlorosulfonic acid | 13.3 mmol, 1.5 g | ClS(=O)(=O)O | ClHO3S
reactant | 2-fluoro-5-methylphenol | 8.86 mmol, 1.1 g | FC1=C(C=C(C=C1)C)O | C7H7FO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-fluoro-4-hydroxy-2-methylbenzenesulfonyl chloride | 150 mg, 7.5% | FC=1C(=CC(=C(C1)S(=O)(=O)Cl)C)O | C7H6ClFO3S
